US06204293B1
1-(5-thiazolyl)-3-cyclohexylpropan-1-ol
A solution of thiazole-5-carboxaldehyde (2.31 g, 20.4 mmol) in 20 mL of in THF was added to a cold (0° C.) solution of 2-cyclohexylethylmagnesium bromide (prepared from 2-bromoethylcyclohexane (7.88 g) and magnesium turnings (1.22 g)) in 30 mL of ethyl ether and the mixture stirred 30 minutes. The cold bath was removed and the mixture stirred for 2 hours more and then quenched by the addition of 3N aqueous HCl. The solution was stirred until 2 clear phases resulted and then the layers were separated. The pH of the aqueous phase was adjusted to 4 with 2M aqueous sodium carbonate and then extracted with 3 portions of ethyl acetate. All the organic phases were combined and washed with brine, dried, filtered and concentrated. The residue was purified by column chromatography on silica gel (125 g, 50% ethyl acetate/hexanes) to provide 2.69 g (58%) of the title compound.

reactant | thiazole-5-carboxaldehyde | 20.4 mmol, 2.31 g | S1C=NC=C1C=O | C4H3NOS
reactant | 2-cyclohexylethylmagnesium bromide | 7.88 g | C1(CCCCC1)CC[Mg]Br
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl ether | 30 mL | C(C)OCC | C4H10O
product | 1-(5-thiazolyl)-3-cyclohexylpropan-1-ol | 2.69 g, 58% | S1C=NC=C1C(CCC1CCCCC1)O | C12H19NOS
